US06844362B2
[2-(benzyloxy)-5-((1R)-2-bromo-1-{[tert-butyl(dimethyl)silyl]oxy}ethyl) phenyl]methanol
Borane methylsulfide complex (42.4 ml of ˜10M solution, 424 mmol) was added drop wise to a solution of methyl 2-(benzyloxy)-5-((1R)-2-bromo-1-{[tert-butyl(dimethyl) silyl]oxy}ethyl)benzoate (Preparation 21, 91.0 g) in tetrahydrofuran (1600 ml). The resulting mixture was then heated to reflux for 2 hours and then cooled to 0° C. before quenching with methanol (270 ml). The mixture was left to stir, at room temperature for 16 hours and then the solvent removed in vacuo. The residue was partitioned between dichloromethane (500 ml) and water (500 ml). The aqueous phase was separated and extracted with more dichloromethane (500 ml) and the combined organic extracts washed with saturated aqueous sodium chloride (500 ml), dried (magnesium sulphate) and the solvent removed in vacuo. The residue was purified by flash column chromatography on silica gel eluting with cyclohexane:ethyl acetate (100:0 changing to 80:20, by volume) to give the title compound (68.7 g) as a colourless oil.

reactant | methyl 2-(benzyloxy)-5-((1R)-2-bromo-1-{[tert-butyl(dimethyl) silyl]oxy}ethyl)benzoate | 91.0 g | C(C1=CC=CC=C1)OC1=C(C(=O)OC)C=C(C=C1)[C@H](CBr)O[Si](C)(C)C(C)(C)C | C23H31BrO4Si
solvent | tetrahydrofuran | 1600 ml | O1CCCC1 | C4H8O
product | [2-(benzyloxy)-5-((1R)-2-bromo-1-{[tert-butyl(dimethyl)silyl]oxy}ethyl) phenyl]methanol | 68.7 g | C(C1=CC=CC=C1)OC1=C(C=C(C=C1)[C@H](CBr)O[Si](C)(C)C(C)(C)C)CO | C22H31BrO3Si
